US06225320B1
3-Iodo-2-methoxy-5-trifluoromethylpyridine
2-Methoxy-3-trimethylsilyl-5-trifluoromethylpyridine (1.30 g, 5.21 mmol) in methanol (15 ml) was treated with silver tetrafluoroborate (1.22 g, 6.27 mmol), cooled to 0° C. and then iodine (1.32 g, 5.20 mmol) in methanol (25 ml) was slowly added. The solution was stirred at 0° C. for 4 hrs then at 22° C. for 16 hrs, before being refluxed for 8 hrs. After cooling, dichloromethane (50 ml) was added and the solution was washed with sodium thiosulphate solution (30 ml), brine (50 ml), then dried (Na2SO4) and concentrated to give a 1:1 mixture of the product and starting material as an oil (1.23 g).

reactant | 2-Methoxy-3-trimethylsilyl-5-trifluoromethylpyridine | 5.21 mmol, 1.30 g | COC1=NC=C(C=C1[Si](C)(C)C)C(F)(F)F | C10H14F3NOSi
reactant | iodine | 5.20 mmol, 1.32 g | II | I2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
catalyst | silver tetrafluoroborate | 6.27 mmol, 1.22 g | F[B-](F)(F)F.[Ag+]
product | 3-Iodo-2-methoxy-5-trifluoromethylpyridine | IC=1C(=NC=C(C1)C(F)(F)F)OC | C7H5F3INO
